US05093370
1,4-Bis(triethylammoniobutyl)benzene diiodide
First, 0.56 g of 1,4-bis(diethylaminobutyl)benzene and 2.1 g of ethyl iodide were dissolved in 7 ml of absolute ethanol, and the mixture was refluxed for 4 hours. After removing the solvent under a reduced pressure and adding acetone and a small amount of ethanol, the mixture was stirred at a room temperature for 30 minutes. The resulting crystal was filtered, washed with acetone, and dried under a reduced pressure to obtain 0.335 g of the title compound as a pale yellow crystal.

reactant | 1,4-bis(diethylaminobutyl)benzene | 0.56 g | C(C)N(CC)CCCCC1=CC=C(C=C1)CCCCN(CC)CC | C22H40N2
reactant | ethyl iodide | 2.1 g | C(C)I | C2H5I
reactant | ethanol | 7 ml | C(C)O | C2H6O
product | 1,4-Bis(triethylammoniobutyl)benzene diiodide | 0.335 g | [I-].[I-].C(C)[N+](CC)(CC)CCCCC1=CC=C(C=C1)CCCC[N+](CC)(CC)CC | InChI=1S/C26H50N2.2HI/c1-7-27(8-2,9-3)23-15-13-17-25-19-21-26(22-20-25)18-14-16-24-28(10-4,11-5)12-6;;/h19-22H,7-18,23-24H2,1-6H3;2*1H/q+2;;/p-2
